US04160841
A mixture of 17 parts of (4-methoxyphenyl)hydrazine hydrochloride, 14 parts of 4,4-dimethoxy-2-butanone, 14 parts of potassium carbonate and 240 parts of ethanol is stirred and refluxed for 2 hours. The reaction mixture is evaporated and the residue is stirred and refluxed for 1 hour with 200 parts of a hydrochloric acid solution 10%. The solvent is evaporated and the residue is neutralized with ammonium hydroxide. The product is extracted three times with 2,2'-oxybispropane. The combined extracts are washed with water, dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using trichloromethane as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from hexane. The product is filtered off and dried, yielding 2.4 parts of 1-(4-methoxyphenyl)-3-methyl-1H-pyrazole.

reactant | (4-methoxyphenyl)hydrazine hydrochloride | Cl.COC1=CC=C(C=C1)NN
reactant | 4,4-dimethoxy-2-butanone | COC(CC(C)=O)OC | C6H12O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 1-(4-methoxyphenyl)-3-methyl-1H-pyrazole | COC1=CC=C(C=C1)N1N=C(C=C1)C | C11H12N2O
